US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(5-methyl-1,3,4-thiadiazol-2-ylthio)butyramide
Following a procedure similar to that described in Example 34, but using N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide (prepared as described in Preparation 2) and 2-mercapto-5-methyl -1,3,4-thiadiazole as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as a white powder, melting at 65°-68° C., in a 78% yield.

reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCl)=O | C19H28ClN3O2
reactant | 2-mercapto-5-methyl -1,3,4-thiadiazole | SC=1SC(=NN1)C | C3H4N2S2
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(5-methyl-1,3,4-thiadiazol-2-ylthio)butyramide | 78% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCSC=1SC(=NN1)C)=O | C22H31N5O2S2
